US07795247B2
Step 4: methyl 3-cyclohexyl-2-{4-methoxy-2-[(methylamino)methyl]phenyl}-1-(2-oxoethyl)-1H-indole-6-carboxylate
Aqueous HCl (25 eq, 3 M) was added to a solution of methyl 3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-2-{4-methoxy-2-[(methylamino)methyl]phenyl}-1H-indole-6-carboxylate in THF (0.02 M), and the mixture heated at reflux for 24 h. The volatiles were reduced in vacuo, and the residue partitioned between EtOAc and saturated aqueous NaHCO3 (ensuring that the aqueous phase is basic). The aqueous phase was extracted with EtOAc and the combined organics washed with water and brine, before being dried (Na2SO4), filtered and concentrated in vacuo to give the title compound in essentially quantitative yield; MS (ES+) m/z 449 (M+H)+.

reactant | HCl | 3 M, 25 eq | Cl | ClH
reactant | methyl 3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-2-{4-methoxy-2-[(methylamino)methyl]phenyl}-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1OCCO1)C1=C(C=C(C=C1)OC)CNC | C29H36N2O5
solvent | THF | 0.02 M | C1CCOC1 | C4H8O
product | methyl 3-cyclohexyl-2-{4-methoxy-2-[(methylamino)methyl]phenyl}-1-(2-oxoethyl)-1H-indole-6-carboxylate | quantitative yield | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC=O)C1=C(C=C(C=C1)OC)CNC | C27H32N2O4
